US06103725
A mixture of 5-(methylamino)pentanol (0.23 mol), 2-chlorobenzothiazole (0.3 mol), sodium carbonate (0.4 g) and potssium iodide (catalytic quantity) in methylisobutylketon (1000 ml) was stirred and refluxed overnight. The reaction mixture was cooled, washed with water, dried, filtered and the filtrate was evaporated. The residue was stirred in water, acidified with HCl, stirred, washed with diisopropylether, and the acidic layer was alkalized with NH4OH. This mixture was extracted twice with CH2Cl2. The separated organic layer was dried, filtered, and the solvent was evaporated, yielding 56 g of N-(5-hydroxypentyl)-N-methyl-2-benzothiazolamine (interm. 7).

reactant | 5-(methylamino)pentanol | 0.23 mol | CNCCCCCO | C6H15NO
reactant | 2-chlorobenzothiazole | 0.3 mol | ClC=1SC2=C(N1)C=CC=C2 | C7H4ClNS
reactant | iodide | [I-]
solvent | methylisobutylketon | 1000 ml | CC(=O)CC(C)C | C6H12O
catalyst | sodium carbonate | 0.4 g | C([O-])([O-])=O.[Na+].[Na+]
product | N-(5-hydroxypentyl)-N-methyl-2-benzothiazolamine | 56 g | OCCCCCN(C=1SC2=C(N1)C=CC=C2)C | C13H18N2OS
